US07812028B2
Preparation of 6-Cyclopropylmethoxy-N-((trans)-2-hydroxy-cyclohexyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 31, using 5-bromo-6-cyclopropylmethoxy-N-(trans-2-hydroxy-cyclohexyl)-nicotinamide and 4-trifluoromethylphenylboronic acid (commercially available) as starting materials. MS (ISP): 435.4 (M+H)+.

reactant | 5-bromo-6-cyclopropylmethoxy-N-(trans-2-hydroxy-cyclohexyl)-nicotinamide | BrC=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCC1CC1 | C16H21BrN2O3
reactant | 4-trifluoromethylphenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 6-Cyclopropylmethoxy-N-((trans)-2-hydroxy-cyclohexyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide | C1(CC1)COC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC=C(C=C1)C(F)(F)F | C23H25F3N2O3
